US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(3-pyridinylmethyl)-2(1H)-pyrimidinone
The title compound was prepared by a procedure similar to that described for E1 starting from 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone and 3-(chloromethyl)pyridine hydrochloride. LC-MS (ESI): m/z 502 [M+H]+; 4.30 min (ret time).

reactant | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(NC=C1)=O)C(F)(F)F | C19H14ClF3N2O3
reactant | 3-(chloromethyl)pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(3-pyridinylmethyl)-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(N(C=C1)CC=1C=NC=CC1)=O)C(F)(F)F | C25H19ClF3N3O3
